US05374625
In an atmosphere of argon gas, a solution of (4S,5S)-5-methoxycarbonyl-4-(oxazolidin-2-on-3-yl)carbonyl-1-cyclohexene (8.50 g, 33.6 mmoles) disclosed in literature [N. Narasaka et al, J. Am. Chem. Soc., 111, 5340 (1989)] in methanol (50 ml) was added to 1M dimethoxymagnesium/methanol (168 ml, 168 mmoles), and the mixture was stirred at 0° C. for 15 minutes. Saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the resulting mixture was extracted with toluene. The toluene extract solution was washed with saturated aqueous solution of sodium chloride and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:9, v/v) to obtain (4S,5S)-4,5-bis(methoxycarbonyl)-1-cyclohexene (1.89 g, Yield 30%).

reactant | (4S,5S)-5-methoxycarbonyl-4-(oxazolidin-2-on-3-yl)carbonyl-1-cyclohexene | 33.6 mmoles, 8.50 g | COC(=O)[C@@H]1[C@H](CC=CC1)C(=O)N1C(OCC1)=O | C12H15NO5
reactant | dimethoxymagnesium methanol | 168 mmoles, 1M, 168 ml | CO[Mg]OC.CO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
product | (4S,5S)-4,5-bis(methoxycarbonyl)-1-cyclohexene | 1.89 g, Yield 30% | COC(=O)[C@H]1CC=CC[C@@H]1C(=O)OC | C10H14O4
